US06552021B2
Hydrogenation of 7-nitroindazole (prepared from 2-methyl-6-nitroaniline according to the literature procedures. Davies, R. R. J.C.S., 1955, 2412-2423; Porter, H. D Org. Synth. Collect. Vol I, 20, 73-74.) gave 7-aminoindazole. This was reacted as above with 2-iodo-3-nitrobenzoic acid to give 2-(1H-indazol-7-ylamino)-3-nitrobenzoic acid (19%, crude). This was purified by treating with an ethereal solution of CH2N2 followed by chromatography on silica gel to give methyl 2-(1H-indazol-7-ylamino)-3-nitrobenzoate (72%); mp (EtOAc/n-hexane) 137-138° C.; 1H NMR [(CD3)2SO] δ 3.49 (s, 3 H, OCH3), 6.72 (br d, J=7.2 Hz, 1 H, ArH), 6.91 (t, J=7.7 Hz, 1 H, ArH), 7.17 (t, J=8.0 Hz, 1 H, ArH), 7.45 (d, J=8.0 Hz, 1 H, ArH), 8.07-8.12 (m, 2 H, 2xArH), 8.18 (dd, J=8.2, 1.5 Hz, 1 H, ArH), 9.45 (br s, 1 H, diphenylamine NH), 13.36 (br s, 1 H, indazole NH). Also isolated was methyl 2-8 (1-methyl-1H-indazol-7-yl)amino]-3-nitrobenzoate (3%); mp (EtOAc/n-hexane) 137-138° C.; 1H NMR [(CD3)2SO] δ 3.72 (s, 3 H, OCH3), 4.19 (s, 3 H, NCH3), 6.46 (d, J=7.2 Hz, 1 H, ArH), 6.83 (dd, J=8.2, 7.4 Hz, 1 H, ArH), 7.18 (t, J=8.0 Hz, 1 H, ArH), 7.30 (d, J=8.3 Hz, 1 H, ArH), 8.18-8.22 (m, 2 H, 2xArH), 8.34 (s, 1 H, ArH), 9.97 (s, 1 H, NH).

reactant | 7-nitroindazole | [N+](=O)([O-])C=1C=CC=C2C=NNC12 | C7H5N3O2
reactant | 2-methyl-6-nitroaniline | CC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O2
product | 7-aminoindazole | NC=1C=CC=C2C=NNC12 | C7H7N3
